US05736568
A mixture of 2-[2-(N-benzyl-N-methylamino)ethoxy]-5-methoxy-N,N-dimethylbenzylamine (1.0 g), aqueous hydrobromic acid (10 ml, 48%) and hypophosphorous acid (0.05 ml, 50% by weight aqueous solution) was boiled under reflux under nitrogen for 1 hour. The mixture was evaporated to dryness under reduced pressure and the residue was neutralised with saturated sodium bicarbonate solution and then basified to pH 9 with 2M sodium hydroxide solution. The mixture was extracted with dichloromethane to give a gum. The gum was purified by flash column chromatography on silica using ethyl acetate/methanol/triethylamine (18:2:1) as the mobile phase to give an oil which was dissolved in ether and acidified with ethereal hydrogen chloride to give a solid which was collected by filtration and then recrystallised from propan-2-ol to give 4-[2-(N-benzyl-N-methylamino)ethoxy]-3-(dimethylaminomethyl)phenol dihydrochloride, m.p. 199°-200° C.

reactant | 2-[2-(N-benzyl-N-methylamino)ethoxy]-5-methoxy-N,N-dimethylbenzylamine | 1.0 g | C(C1=CC=CC=C1)N(C)CCOC1=C(CN(C)C)C=C(C=C1)OC | C20H28N2O2
reactant | hydrobromic acid | 10 ml | Br | BrH
reactant | hypophosphorous acid | 0.05 ml | [PH2](=O)O | H3O2P
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 4-[2-(N-benzyl-N-methylamino)ethoxy]-3-(dimethylaminomethyl)phenol dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N(C)CCOC1=C(C=C(C=C1)O)CN(C)C | InChI=1S/C19H26N2O2.2ClH/c1-20(2)15-17-13-18(22)9-10-19(17)23-12-11-21(3)14-16-7-5-4-6-8-16;;/h4-10,13,22H,11-12,14-15H2,1-3H3;2*1H
